US07381823B2
600 ml of toluene, 200 g of cyanoacetamide, 193 g of cyclohexanone, 15 g of ammonium acetate and 24 g of acetic acid are placed in a 2 litre flask equipped with a mechanical stirrer, thermometer and Dean-Stark trap connected to a condenser, under nitrogen flow. The mixture is heated under reflux, simultaneously separating the water by distilling the water-toluene azeotrope. The separated water is collected in the Dean-Stark trap and removed at suitable time intervals. After 2 hours, on completion of the azeotropic distillation, it is cooled to 70° C., washed with 400 ml of a saturated sodium bicarbonate solution and cooled to 15° C. The precipitated solid is filtered off, washed with 70 ml of toluene, then 70 ml of water and dried in an oven at 40° C. under vacuum. 213 g of 2-cyclohexylidene-2-cyanoacetamide are obtained.

reactant | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
reactant | cyanoacetamide | 200 g | C(#N)CC(=O)N | C3H4N2O
reactant | cyclohexanone | 193 g | C1(CCCCC1)=O | C6H10O
reactant | ammonium acetate | 15 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 24 g | C(C)(=O)O | C2H4O2
product | 2-cyclohexylidene-2-cyanoacetamide | 213 g | C1(CCCCC1)=C(C(=O)N)C#N | C9H12N2O
